US05807866
(h) Preparation of racemic trans-3-(3-bromophenyl) oxiranemethanol
A magnetically stirred solution of m-chloroperbenzoic acid (3.57 g, 10.33 mmol) in dichloromethane (60.0 ml) at 25° C. was treated dropwise with a solution of trans-3-(3-bromophenyl)-2-propenol (2.0 g, 9.39 mmol) in dichloromethane (20.0 ml). After stirring for 16 h the mixture was diluted with dichloromethane (200 ml), washed with aqueous 1M NaOH (2×200 ml), brine (2×200 ml) and dried (Na2SO4). Evaporation of the solvent in vacuo returned the crude epoxide as a pale yellow oil (2.06 g). Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 3:7) provided the title compound (1.53 g, 71%) as a pale yellow oil.

reactant | m-chloroperbenzoic acid | 10.33 mmol, 3.57 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | trans-3-(3-bromophenyl)-2-propenol | 9.39 mmol, 2.0 g | BrC=1C=C(C=CC1)/C=C/CO | C9H9BrO
solvent | dichloromethane | 60.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | racemic trans-3-(3-bromophenyl) oxiranemethanol | 1.53 g, 71% | BrC=1C=C(C=CC1)[C@H]1[C@@H](O1)CO | C9H9BrO2
